US04124717
Reaction of 1-nitro-2-methylthio-2-[2-((4-methyl-5-imidazolyl)methylthio)ethylamino]ethylene with an excess of 2-[2-aminoethyl)thiomethyl]thiazole according to the procedure of Example 3, results in the production of 1-nitro-2-[2-((4-methyl-5-imidazolyl)methylthio)ethylamino]-2-[2-(2-thiazolylmethylthio)ethylamino]ethylene, m.p. 119°-120° (from acetonitrile). By the same procedure, reaction of 1-nitro-2-methylthio-2-[2-((4-methyl-5-imidazolyl)methylthio)ethylamino]ethylene with the following compounds

reactant | 1-nitro-2-methylthio-2-[2-((4-methyl-5-imidazolyl)methylthio)ethylamino]ethylene | [N+](=O)([O-])C=C(NCCSCC1=C(N=CN1)C)SC | C10H16N4O2S2
reactant | thiazole | S1C=NC=C1 | C3H3NS
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-nitro-2-[2-((4-methyl-5-imidazolyl)methylthio)ethylamino]-2-[2-(2-thiazolylmethylthio)ethylamino]ethylene | [N+](=O)([O-])C=C(NCCSCC=1SC=CN1)NCCSCC1=C(N=CN1)C | C15H22N6O2S3
